US06710040B1
Step 2: [(1S,2S)-1-(3-Fluoro-azetidine-1-carbonyl)-2-methyl-butyl]-carbamic Acid tert-Butyl Ester.
To a cooled (−78° C.) solution of diethylaminosulfur trifluoride (0.46 mL, 3.5 mmol) in dichloromethane (6 mL), was added dropwise a solution of [(1S,2S)-1-(3-hydroxy-azetidine-1-carbonyl)-2-methyl-butyl]-carbamic acid tert-butyl ester (1.0 g, 3.5 mmol) in dichloromethane (4 mL). The mixture was warmed to room temperature, stirred overnight, then diluted with ethyl acetate and poured into ice/water. The layers were separated, and the organic phase washed with water and brine, dried over magnesium sulfate and concentrated. The product was purified by flash-chromatography (ethyl acetate) and isolated as an oil (250 mg, 25%).

reactant | diethylaminosulfur trifluoride | 3.5 mmol, 0.46 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | [(1S,2S)-1-(3-hydroxy-azetidine-1-carbonyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | 3.5 mmol, 1.0 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)C(=O)N1CC(C1)O)=O | C14H26N2O4
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(1S,2S)-1-(3-Fluoro-azetidine-1-carbonyl)-2-methyl-butyl]-carbamic Acid tert-Butyl Ester | 250 mg, 25% | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)C(=O)N1CC(C1)F)=O | C14H25FN2O3
